US06313162B1
(c) α-Ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol
18.5 g (40 mmol) of α-trimethylsilylethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol and 50 ml of THF are introduced into a round-bottomed flask and 40 ml (44 mmol) of tetrabutylammonium fluoride solution (1.1 M in THF) are added dropwise. The mixture is stirred at room temperature for one hour, the reaction medium is poured into water and extracted with ethyl ether and the organic phase is separated out after settling has taken place, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of ethyl acetate and hexane (5/95 by volume). After evaporation of the solvents, 13.5 g (86%) of α-ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol are collected in the form of a colourless oil.

reactant | α-trimethylsilylethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol | 40 mmol, 18.5 g | C[Si](C#CC1=C(C=C(C(=C1C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C)CO)(C)C | C26H46O3Si2
reactant | THF | 50 ml | C1CCOC1 | C4H8O
reactant | tetrabutylammonium fluoride | 44 mmol, 1.1 M, 40 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | O | H2O
product | α-Ethynyl-3,5-di-tert-butyl-4-(2-trimethylsilylethoxymethoxy)benzenemethanol | C(#C)C(O)C1=CC(=C(C(=C1)C(C)(C)C)OCOCC[Si](C)(C)C)C(C)(C)C | C23H38O3Si
